* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* CDL Netlist:                                              *
*                                                           *
* Cell Name  : NAND_X1                                      *
* Netlisted  : Wed Oct  1 21:05:38 2025                     *
* Pegasus Version: 24.13-s018 Wed Jun 18 15:36:24 PDT 2025  *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
*.LDD
*.DEVTMPLT 0 M(g45n1svt) _nmos1v ndiff_conn(D) poly_conn(G) ndiff_conn(S) psubstrate(B)
*.DEVTMPLT 1 M(g45p1svt) _pmos1v pdiff_conn(D) poly_conn(G) pdiff_conn(S) nwell_conn(B)

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M1_PO_CDNS_759367132980                         *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M1_PO_CDNS_759367132980 1
** N=1 EP=1 FDC=0
.ends M1_PO_CDNS_759367132980

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M2_M1_CDNS_759367132983                         *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M2_M1_CDNS_759367132983 1
** N=1 EP=1 FDC=0
.ends M2_M1_CDNS_759367132983

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M2_M1_CDNS_759367132984                         *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M2_M1_CDNS_759367132984 1
** N=1 EP=1 FDC=0
.ends M2_M1_CDNS_759367132984

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nmos1v_CDNS_759367132980                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nmos1v_CDNS_759367132980 1 2 3 4
*.DEVICECLIMB
** N=4 EP=4 FDC=0
.ends nmos1v_CDNS_759367132980

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pmos1v_CDNS_759367132981                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pmos1v_CDNS_759367132981 1 2 3 4
*.DEVICECLIMB
** N=4 EP=4 FDC=0
.ends pmos1v_CDNS_759367132981

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: NAND_X1                                         *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt NAND_X1 A B GND VDD Y
** N=6 EP=5 FDC=4
X0 A M1_PO_CDNS_759367132980 $T=670 2050 0 0 $X=570 $Y=1930
X1 B M1_PO_CDNS_759367132980 $T=2360 2590 0 0 $X=2260 $Y=2470
X2 Y M2_M1_CDNS_759367132983 $T=470 2980 0 0 $X=390 $Y=2850
X3 VDD M2_M1_CDNS_759367132983 $T=470 5720 0 0 $X=390 $Y=5590
X4 Y M2_M1_CDNS_759367132983 $T=2160 2980 0 0 $X=2080 $Y=2850
X5 GND M2_M1_CDNS_759367132983 $T=2570 300 0 0 $X=2490 $Y=170
X6 VDD M2_M1_CDNS_759367132983 $T=2570 5720 0 0 $X=2490 $Y=5590
X7 Y M2_M1_CDNS_759367132984 $T=470 1290 0 0 $X=390 $Y=1020
X8 VDD M2_M1_CDNS_759367132984 $T=470 4730 0 0 $X=390 $Y=4460
X9 6 M2_M1_CDNS_759367132984 $T=880 1290 0 0 $X=800 $Y=1020
X10 Y M2_M1_CDNS_759367132984 $T=880 4730 0 0 $X=800 $Y=4460
X11 6 M2_M1_CDNS_759367132984 $T=2160 1290 0 0 $X=2080 $Y=1020
X12 Y M2_M1_CDNS_759367132984 $T=2160 4740 0 0 $X=2080 $Y=4470
X13 GND M2_M1_CDNS_759367132984 $T=2570 1290 0 0 $X=2490 $Y=1020
X14 VDD M2_M1_CDNS_759367132984 $T=2570 4740 0 0 $X=2490 $Y=4470
X15 Y 6 A GND nmos1v_CDNS_759367132980 $T=630 1050 0 0 $X=210 $Y=850
X16 6 GND B GND nmos1v_CDNS_759367132980 $T=2320 1050 0 0 $X=1900 $Y=850
X17 VDD Y A GND pmos1v_CDNS_759367132981 $T=630 4490 0 0 $X=210 $Y=4290
X18 VDD Y B GND pmos1v_CDNS_759367132981 $T=2410 4500 1 180 $X=1900 $Y=4300
M0 6 A Y GND g45n1svt w=2.4e-07 l=4.5e-08 ad=3.36e-14 as=3.36e-14 pd=7.6e-07 ps=7.6e-07 sa=1.4e-07 sb=1.4e-07 sca=13.0716 scb=0.0128391 scc=0.000407874 fw=2.4e-07 $X=630 $Y=1050 $dt=0
M1 GND B 6 GND g45n1svt w=2.4e-07 l=4.5e-08 ad=3.36e-14 as=3.36e-14 pd=7.6e-07 ps=7.6e-07 sa=1.4e-07 sb=1.4e-07 sca=14.2234 scb=0.0145618 scc=0.000570747 fw=2.4e-07 $X=2320 $Y=1050 $dt=0
M2 Y A VDD VDD g45p1svt w=2.4e-07 l=4.5e-08 ad=3.36e-14 as=3.36e-14 pd=7.6e-07 ps=7.6e-07 sa=1.4e-07 sb=1.4e-07 sca=15.8854 scb=0.0156321 scc=0.000428412 fw=2.4e-07 $X=630 $Y=4490 $dt=1
M3 VDD B Y VDD g45p1svt w=2.4e-07 l=4.5e-08 ad=3.36e-14 as=3.36e-14 pd=7.6e-07 ps=7.6e-07 sa=1.4e-07 sb=1.4e-07 sca=17.0124 scb=0.0173035 scc=0.000589955 fw=2.4e-07 $X=2320 $Y=4500 $dt=1
.ends NAND_X1
